US07981903B2
A solution of 1-[3-(methyloxy)-4-nitrophenyl]piperazine (1.78 g, 7.51 mmol), 1-iodopropane (1.92 g, 11.3 mmol), and potassium carbonate (4.15 g, 30.0 mmol) in acetonitrile (50 mL) was heated in a pressure vessel at 80° C. for 24 hours. The reaction was cooled and the acetonitrile was removed under reduced pressure. The solids were dissolved in methylene chloride/water. The organic layer was dried over sodium sulfate and the solvent removed under reduced pressure. The resultant residue was purified by chromatography on SiO2 (10% MeOH/CH2CL2 with 0.2% NH3) to give 1-[3-(methyloxy)-4-nitrophenyl]-4-propylpiperazine as a pale yellow solid (1.5 g, 5.4 mmol, 72% yield). 1H NMR (400 MHz, CDCl3) δ ppm 0.94 (t, J=7.32 Hz, 3H), 1.51-1.61 (m, 2 H), 2.34-2.42 (m, 2 H), 2.59 (s, 4 H), 3.38-3.45 (m, 4 H), 3.95 (s, 3 H), 6.31 (d, J=2.20 Hz, 1 H), 6.42 (dd, J=9.34, 2.38 Hz, 1 H), 8.00 (d, J=9.52 Hz, 1 H).

reactant | 1-[3-(methyloxy)-4-nitrophenyl]piperazine | 7.51 mmol, 1.78 g | COC=1C=C(C=CC1[N+](=O)[O-])N1CCNCC1 | C11H15N3O3
reactant | 1-iodopropane | 11.3 mmol, 1.92 g | ICCC | C3H7I
reactant | potassium carbonate | 30.0 mmol, 4.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-[3-(methyloxy)-4-nitrophenyl]-4-propylpiperazine | 5.4 mmol, 1.5 g, 72% yield | COC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)CCC | C14H21N3O3
